US08242102B2
1.3 (1-(tert-Butoxycarbonyl)azetidin-3-yl)zinc(II) iodide
Zn dust (1.80 g, 27.5 mmol) was vigorously stirred in DMA (11 ml) under nitrogen and the suspension was heated at 65° C. Trimethylsilyl chloride (0.37 g, 3.39 mmol) and 1,2-dibromoethane (0.64 g, 3.39 mmol) was added and stirring continued for 40 min. A solution of 3-iodo-azetidine-1-carboxylic acid tert-butyl ester (6.00 g, 21.2 mmol) in dimethylacetamide (DMA, 10 ml) was then added dropwise to the solution over a period of 30 min and then the reaction mixture allowed to cool to room temperature over 16 h. The resulting solution was used without any purification in the next step.

reactant | Zn | 27.5 mmol, 1.80 g | [Zn] | Zn
reactant | Trimethylsilyl chloride | 3.39 mmol, 0.37 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | 1,2-dibromoethane | 3.39 mmol, 0.64 g | BrCCBr | C2H4Br2
reactant | 3-iodo-azetidine-1-carboxylic acid tert-butyl ester | 21.2 mmol, 6.00 g | C(C)(C)(C)OC(=O)N1CC(C1)I | C8H14INO2
solvent | DMA | 11 ml | CC(=O)N(C)C | C4H9NO
solvent | dimethylacetamide | 10 ml | CC(=O)N(C)C | C4H9NO
product | (1-(tert-Butoxycarbonyl)azetidin-3-yl)zinc(II) iodide | [I-].C(C)(C)(C)OC(=O)N1CC(C1)[Zn+] | InChI=1S/C8H14NO2.HI.Zn/c1-8(2,3)11-7(10)9-5-4-6-9;;/h4H,5-6H2,1-3H3;1H;/q;;+1/p-1
